US08466193B2
To a solution of 1H-indole-6-carboxylic acid methyl ester (0.5 g, 2.9 mmol) and 1-(2-bromoethoxy)benzene (0.74 g, 3.7 mmol) in DMF (15 mL) was added K2CO3 (1.2 g, 8.6 mmol). After stirring at room temperature for 16 hr, the mixture was heated to 55° C. for 5 hr then cooled to room temperature and diluted with ethyl acetate (100 ml) and washed with water (3×50 ml). The organic layer was dried (MgSO4), filtered and concentrated. The remaining residue was subjected to flash chromatography (20% ethyl acetate/hexane, then ethyl acetate) to provide 0.63 g (75%) of methyl 1-(2-phenoxyethyl)-1H-indole-6-carboxylate. 1H NMR (300 MHz, DMSO) δ 8.26 (d, 1H, J=1.0 Hz), 7.67-7.62 (m, 3H), 7.23 (td, 2H, J=7.6 Hz, J=1.0 Hz), 6.92-6.84 (m, 3H), 6.55 (dd, 1H, J=3.0 Hz, J=0.6 Hz), 4.66 (t, 2H, J=4.9 Hz), 4.28 (t, 2H, J=4.9 Hz), 3.86 (s, 3H).

reactant | 1H-indole-6-carboxylic acid methyl ester | 2.9 mmol, 0.5 g | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | 1-(2-bromoethoxy)benzene | 3.7 mmol, 0.74 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | K2CO3 | 8.6 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 1-(2-phenoxyethyl)-1H-indole-6-carboxylate | 0.63 g, 75% | O(C1=CC=CC=C1)CCN1C=CC2=CC=C(C=C12)C(=O)OC | C18H17NO3
